US07517987B2
Step G: (2S)-2-(1-hydroxy-3-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid tert-butyl ester
To a solution of (2S)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propionic acid tert-butyl ester (426 mg, 1.55 mmol) in a mixture of THF (10 mL) and MeOH (2 mL) was added sodium borohydride (181 mg, 4.8 mmol) in one portion. The reaction mixture was stirred for 30 minutes before solvents were evaporated at room temperature and the residue was columned on silica (Petrol/AcOEt, 8/2) to afford the sub-title compound as colorless oil (284 mg, 66%): 1H NMR (400 MHz CDCl3) δ 1.38-1.40 (9H, 2s), 1.57-1.60 (3H, 2d), 4.38-4.45 (1H, m), 4.65-4.76 (1H, m), 5.81-6.01 (1H, 2d), 7.33-7.64 (4H, d).

reactant | (2S)-2-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-propionic acid tert-butyl ester | 1.55 mmol, 426 mg | C(C)(C)(C)OC([C@H](C)N1C(C2=CC=CC=C2C1=O)=O)=O | C15H17NO4
reactant | sodium borohydride | 4.8 mmol, 181 mg | [BH4-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 2 mL | CO | CH4O
product | (2S)-2-(1-hydroxy-3-oxo-1,3-dihydro-isoindol-2-yl)-propionic acid tert-butyl ester | 284 mg, 66% | C(C)(C)(C)OC([C@H](C)N1C(C2=CC=CC=C2C1=O)O)=O | C15H19NO4
